US07153968B2
Step 1: 6-Bromo-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridine
To a solution of 6-bromo-3H-imidazo[4,5-b]pyridine (1.0 eq.) (see J. Am. Chem. Soc. 1957, 6421.) in DMF (0.2M) was added NaH (1.4 eq.). The mixture was stirred for 30 min then SEM-Cl (2.0 eq.) was added. The final mixture was stirred for 2 h, poured in saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with water (3×), brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 7:3) afforded the title compound as a foam.

reactant | 6-bromo-3H-imidazo[4,5-b]pyridine | 1.0 eq. | BrC=1C=C2C(=NC1)NC=N2 | C6H4BrN3
reactant | NaH | 1.4 eq. | [H-].[Na+]
reactant | SEM-Cl | 2.0 eq. | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 0.2M | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | 6-Bromo-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C=N2)COCC[Si](C)(C)C | C12H18BrN3OSi
